US07405305B2
3-[5-(2-hydroxyethoxy)benzofur-7-yl]-1-methyl-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione
Add to a mixture of 3-(5-hydroxybenzofur-7-yl)-1-methyl-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione (2.5 g, 6.7 mmol) and potassium carbonate (2.78 g, 20.1 mmol) in N,N-dimethylformamide (40 ml), 2-(2-bromoethoxy)tetrahydropyran (3.04 ml, 20.1 mmol). Heat the mixture to 80° C. under nitrogen atmosphere for overnight. Diluted with ethyl acetate, wash with water, brine, dry over magnesium sulfate, filter and concentrate to red solid. Dissolve the solid in methanol (40 ml), add p-toluenesulfonic acid (3 g), stir for 20 minutes. Diluted with ethyl acetate, wash with water, brine, dry over magnesium sulfate, filter and concentrate to afford the title compound (1.88 g, 67%) as a red solid. HRMS: calculated 417.1450 found 417.1462.

reactant | 3-(5-hydroxybenzofur-7-yl)-1-methyl-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione | 6.7 mmol, 2.5 g | OC=1C=C(C2=C(C=CO2)C1)C=1C(N(C(C1C1=CN(C2=CC=CC=C12)C)=O)C)=O | C22H16N2O4
reactant | potassium carbonate | 20.1 mmol, 2.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-bromoethoxy)tetrahydropyran | 20.1 mmol, 3.04 ml | BrCCOC1OCCCC1 | C7H13BrO2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[5-(2-hydroxyethoxy)benzofur-7-yl]-1-methyl-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione | 1.88 g, 67% | OCCOC=1C=C(C2=C(C=CO2)C1)C=1C(N(C(C1C1=CN(C2=CC=CC=C12)C)=O)C)=O | C24H20N2O5
